### PR TITLE
feat: 'BitVec.toInt_eq'. `toInt` in terms of `toNat`

### PR DESCRIPTION
**Pull request by bollu**

### CODE REVIEW

File: Std/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -468,3 +468,45 @@ protected theorem lt_of_le_ne (x y : BitVec n) (h1 : x <= y) (h2 : ¬ x = y) : x
...
+      rw [← Nat.mul_two, ← Nat.pow_succ]
+      rcases w with rfl | w' <;> simp_all
+      · apply Nat.lt_trans hx Nat.one_lt_two
+    · apply Nat.lt_of_lt_of_le
+      apply Nat.zero_lt_one
+      apply Nat.two_pow_pos
+    · exact h
+  case neg h =>
+    simp only [h, ↓reduceIte]
+    exact Nat.div_eq_of_lt (Nat.not_le.mp h)
```
Comment (tobiasgrosser) [inline Std/Data/BitVec/Lemmas.lean:489]: Does this not belong in `Data.Nat`?

Comment (bollu) [reply Std/Data/BitVec/Lemmas.lean:489]: I don't feel so, it's a local theorem which is specialized to `BitVec`
